US07612114B2
[3-Fluoro-4-(2-piperidin-1-ylethoxy)phenyl][4-methoxy-2-(6-methoxy-3,4-dihydro-naphthalen-2-yl)phenyl]methanone
Synthesized from (2-bromo-4-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]methanone (420 mg) and (6-methoxy-3,4-dihydronaphthalen-2-yl)trimethyltin (352 mg) according to an analogous synthetic method to Example 1, the title compound (295 mg) was obtained.

reactant | (2-bromo-4-methoxyphenyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]methanone | 420 mg | BrC1=C(C=CC(=C1)OC)C(=O)C1=CC(=C(C=C1)OCCN1CCCCC1)F | C21H23BrFNO3
reactant | (6-methoxy-3,4-dihydronaphthalen-2-yl)trimethyltin | 352 mg | COC=1C=C2CCC(=CC2=CC1)[Sn](C)(C)C
product | [3-Fluoro-4-(2-piperidin-1-ylethoxy)phenyl][4-methoxy-2-(6-methoxy-3,4-dihydro-naphthalen-2-yl)phenyl]methanone | 295 mg | FC=1C=C(C=CC1OCCN1CCCCC1)C(=O)C1=C(C=C(C=C1)OC)C1=CC2=CC=C(C=C2CC1)OC | C32H34FNO4
